US07465731B2
A diisobutylaluminium hydride in toluene solution (4.6 mL) was dropwise added to a solution of ethyl 5-chloro-6-{[(1S,2R)-2-phenylcyclopropyl]amino}nicotinate (488 mg) in tetrahydrofuran (15 mL) with stirring at 0° C. under atmospheric pressure of nitrogen, and the reaction mixture was stirred at 0° C. for 1 hour. A methanol (1 mL) was added to a reaction mixture at 0° C. and allowed to warm to room temperature. Tetrahydrofuran (20 mL) and saturated sodium potassium tartarate aqueous solution (5 mL) was added and the resultant mixture was stirred at ambient temperature for 1 hour. The reaction mixture was filtrated and the filtrate was dried over MgSO4. The solvent was evaporated in vacuo and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=2:1 v/v) to give (5-chloro-6-{[(1S,2R)-2-phenylcyclopropyl]amino}-3-pyridinyl)methanol (398 mg).

reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl 5-chloro-6-{[(1S,2R)-2-phenylcyclopropyl]amino}nicotinate | 488 mg | ClC=1C(=NC=C(C(=O)OCC)C1)N[C@@H]1[C@H](C1)C1=CC=CC=C1 | C17H17ClN2O2
reactant | methanol | 1 mL | CO | CH4O
reactant | sodium potassium tartarate | 5 mL | C(C(O)C(O)C(=O)[O-])(=O)[O-].[K+].[Na+]
solvent | toluene | 4.6 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (5-chloro-6-{[(1S,2R)-2-phenylcyclopropyl]amino}-3-pyridinyl)methanol | 398 mg | ClC=1C=C(C=NC1N[C@@H]1[C@H](C1)C1=CC=CC=C1)CO | C15H15ClN2O
